US06974870B2
To a stirred solution of 2-cyanothioacetamide (1.4 g, 14 mmol) and 2,4-nonanedione (2.0 g, 13 mmol) in anhydrous EtOH (40 mL) was added triethylamine (0.5 mL) and the reaction was heated at 50° C. for 1 h and then was allowed to cool to room temperature. Filtration and washing of the precipitates with EtOH gave 6-pentyl-2-mercapto4-methyl-nicotinonitrile as a yellow solid (1.84 g, 62.1%).

reactant | 2-cyanothioacetamide | 14 mmol, 1.4 g | C(#N)CC(=S)N | C3H4N2S
reactant | 2,4-nonanedione | 13 mmol, 2.0 g | CC(CC(CCCCC)=O)=O | C9H16O2
reactant | triethylamine | 0.5 mL | C(C)N(CC)CC | C6H15N
solvent | EtOH | 40 mL | CCO | C2H6O
product | 6-pentyl-2-mercapto4-methyl-nicotinonitrile | 1.84 g, 62.1% | C(CCCC)C1=NC(=C(C#N)C(=C1)C)S | C12H16N2S
